US08026234B2
Compound 154: 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-2-fluoro-N-(3-fluoro-4-(4-methylpiperazin-1-yl)phenyl)-5-methoxybenzamide
The title compound was prepared in a manner analogous to compound 149 from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid and 3-fluoro-4-(4-methylpiperazin-1-yl)aniline with yield 70 mg (53%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42-1.73 (m, 6H) 1.86-2.06 (m, 2H) 2.22 (s, 3H) 2.35-2.49 (m, 4H) 2.97 (br. s., 4H) 3.94 (s, 3H) 4.09 (t, J=13.89 Hz, 2H) 4.82 (t, J=7.83 Hz, 1H) 7.01 (t, J=9.35 Hz, 1H) 7.26 (d, J=6.82 Hz, 1H) 7.32-7.45 (m, 1H) 7.63 (dd, J=15.03, 1.89 Hz, 1H) 8.10 (s, 1H) 8.19-8.46 (m, 2H) 10.16 (s, 1H). [M+H] calc'd for C32H36F4N8O3, 657. found 657.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2OC)F | C21H22F3N5O4
reactant | 3-fluoro-4-(4-methylpiperazin-1-yl)aniline | FC=1C=C(N)C=CC1N1CCN(CC1)C | C11H16FN3
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-2-fluoro-N-(3-fluoro-4-(4-methylpiperazin-1-yl)phenyl)-5-methoxybenzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)NC1=CC(=C(C=C1)N1CCN(CC1)C)F)C=C2OC)F | C32H36F4N8O3
